US07728130B2
A solution of methyl 2-(7-bromo-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate (100 mg, 271 μmol), Pd2 dba3.CHCl3 (28 mg, 27 μmol), X-Phos (26 mg, 54 μmol) and morpholine (71 μl, 813 μmol) in 1,4-dioxane (3 ml) was treated with sodium tert-butoxide (104 mg, 1084 μmol). The reaction was stirred at 80° C. in a sealed tube. After 24 hours, the suspension was cooled to 23° C., filtered through celite (extensively washing with methanol), the filtrate concentrated in vacuo and purified by silica gel chromatography after adsorption onto silica (eluant: 10% methanol/dichloromethane+1% AcOH), affording 18 mg (18%) of 2-(4-Hydroxy-1-methyl-7-morpholino-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid as a greenish-white solid.

reactant | methyl 2-(7-bromo-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | 271 μmol, 100 mg | BrC1=CC=C2C(=C(C(N(C2=C1)C)=O)C(=O)NCC(=O)OC)O | C14H13BrN2O5
reactant | CHCl3 | 27 μmol, 28 mg | C(Cl)(Cl)Cl | CHCl3
reactant | X-Phos | 54 μmol, 26 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | morpholine | 813 μmol, 71 μl | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 1084 μmol, 104 mg | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(4-Hydroxy-1-methyl-7-morpholino-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid | 18 mg, 18% | OC1=C(C(N(C2=CC(=CC=C12)N1CCOCC1)C)=O)C(=O)NCC(=O)O | C17H19N3O6
